US06545009B1
In the same manner as in Example 28, thioisonicotinamide was reacted with ethyl 4-bromoacetylbenzoate to obtain ethyl 4-[2-(4-pyridyl)-4-thiazolyl]benzoate hydrobromide. The product was recrystallized from ethanol. Yield: 67%. Pale yellow prisms. Melting point: 248 to 250° C.

reactant | thioisonicotinamide | C(C1=CC=NC=C1)(=S)N | C6H6N2S
reactant | ethyl 4-bromoacetylbenzoate | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
product | ethyl 4-[2-(4-pyridyl)-4-thiazolyl]benzoate hydrobromide | Yield: 67% | Br.N1=CC=C(C=C1)C=1SC=C(N1)C1=CC=C(C(=O)OCC)C=C1 | InChI=1S/C17H14N2O2S.BrH/c1-2-21-17(20)14-5-3-12(4-6-14)15-11-22-16(19-15)13-7-9-18-10-8-13;/h3-11H,2H2,1H3;1H
